Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Lower Back Pain
 
Major Surgical or Invasive Procedure:
Bone biopsy (___)

 
History of Present Illness:
___ if no growth; CRP/ESR today then weekly after starting abx. 

====================================================  
TWILIGHT ADMISSION NOTE 
Date: ___  
===================================================  
Primary Care Physician: ___. MD
___ Complaint:  lower back pain
 
History of Present Illness: 
(obtained through ___ interpreter)
 
Ms. ___ is a ___ year old ___-speaking female with h/o
HTN, HLD, chronic low back pain, and recent admission to ___ for
pyelonephritis, who presents with lower back pain for 2 months.
She endorses constant but intermittently intensifying pain at
midline and on both sides near her sacrum. The pain radiates 
down
the left leg and is accompanied by numbness in that leg. 
However,
she denies weakness in either leg, fevers, chills, urinary/fecal
retention or incontinence, or saddle anesthesia.

She reports that she had seen her PCP, who ordered an MRI. She
states that she was not told the results of this MRI, but was
told by her PCP to come into the ER.

Of note, the patient was admitted to ___ in ___ for severe
sepsis with pyelonephritis and pneumonia. Found to have E. coli
bacteremia at that time. Treated with IV ceftriaxone for 7 days,
then transitioned to oral cefuroxime at discharge.
 
Past Medical History:
- Osteopenia
- Adhesive capsulitis, rotator cuff tendinitis
- HTN
- HLD
- H/o pyelonephritis
- Chronic back pain
 
Social History:
___
Family History:
- Sister died of breast cancer at age ___
- Brother with DM 
 
Physical Exam:
=======================
ADMISSION PHYSICAL EXAM
=======================
Vitals: 97.7 125/81 75 18 99% Ra  
GENERAL: AOx3, NAD, Portugese-speaking, alert and interactive.  
HEENT: Normocephalic, atraumatic. Pupils equal, round, and
reactive bilaterally, extraocular muscles intact. sclera
anicteric and without injection. Moist mucous membranes, good
dentition. Oropharynx is clear.  
NECK: Supple. 
CARDIAC: Regular rhythm, normal rate, no murmurs/rubs/gallops. 
No
JVD.  
LUNGS: Clear to auscultation bilaterally w/appropriate breath
sounds appreciated in all fields. No wheezes, rhonchi or rales.
Breathing comfortably on RA.
BACK: Spinal and bilateral paraspinal tenderness of lower back
near SI joint. Mid and upper back nontender, both at midline and
paraspinally. No CVA tenderness.  
ABDOMEN: Normal bowels sounds, non distended, mild tenderness to
deep palpation of LLQ and RLQ. Otherwise nontender.  
EXTREMITIES: No clubbing, cyanosis, or edema, no sign of
atrophy/hypertrophy. Pulses DP/Radial 2+ bilaterally.  
SKIN: No evidence of ulcers, rash or lesions suspicious for
malignancy  
NEUROLOGIC: CN2-12 intact. ___ strength througout. Normal
sensation of UE bilaterally. Sensation of LLE "more complicated"
due to presence of numbness in left leg. Sensation intact in 
RLE.

=======================
DISCHARGE PHYSICAL EXAM
=======================
Physical Exam: 
Vitals: 98.2, 105/70, 78, 20, 97% RA
GENERAL: AOx3, NAD, Portugese-speaking, alert and interactive  
HEENT: Normocephalic, atraumatic. Pupils equal, round, and
reactive bilaterally, extraocular muscles intact. Sclera
anicteric and without injection. Moist mucous membranes, good
dentition. Oropharynx is clear.  
NECK: Supple. 
CARDIAC: Regular rhythm, normal rate, no murmurs/rubs/gallops. 
No
JVD.  
LUNGS: CTAB. No wheezes, rhonchi or rales. Breathing comfortably
on RA.
BACK: Spinal and bilateral paraspinal tenderness of lower back
near SI joint. No redness, swelling, signs of skin/soft tissue 
infection.
Mid and upper back nontender. No CVA tenderness.  Biopsy site is
c/d/i. She has no fevers/chills, N/V.
ABDOMEN: Normal bowels sounds, non distended, nontender
EXTREMITIES: No clubbing, cyanosis, or edema, pulses DP/Radial 
2+
bilaterally
SKIN: No evidence of ulcers, rash or lesions 
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation of UE and ___ bilaterally.

 
Pertinent Results:
===============
ADMISSION LABS:
___
___ 09:10PM BLOOD WBC-7.0 RBC-3.73* Hgb-10.4* Hct-32.6* 
MCV-87 MCH-27.9 MCHC-31.9* RDW-13.9 RDWSD-44.1 Plt ___
___ 09:10PM BLOOD Neuts-49.3 ___ Monos-8.1 Eos-1.8 
Baso-0.7 Im ___ AbsNeut-3.46 AbsLymp-2.80 AbsMono-0.57 
AbsEos-0.13 AbsBaso-0.05
___ 08:05AM BLOOD ___ PTT-32.1 ___
___ 09:10PM BLOOD Glucose-95 UreaN-15 Creat-0.6 Na-139 
K-4.1 Cl-101 HCO3-24 AnGap-14
___ 08:05AM BLOOD Calcium-9.4 Phos-4.7* Mg-2.0 

========================
PERTINENT INTERVAL LABS:
========================
___ 07:00AM BLOOD CRP-13.7*
___ 07:00AM BLOOD SED RATE-39*  

===============
DISCHARGE LABS:
===============
___ 07:43AM BLOOD WBC-5.4 RBC-4.03 Hgb-11.3 Hct-35.3 MCV-88 
MCH-28.0 MCHC-32.0 RDW-14.2 RDWSD-45.3 Plt ___
___ 07:08AM BLOOD Glucose-112* UreaN-18 Creat-0.6 Na-137 
K-4.8 Cl-99 HCO3-24 AnGap-14
___ 07:08AM BLOOD Calcium-9.6 Phos-4.1 Mg-2.0

================
IMAGING STUDIES:
================
Outpatient MRI L-spine:
IMPRESSION: L5-S1 discitis with osteomyelitis of the L5 and S1 
vertebral bodies. Anterior left paraspinous soft tissue abscess 
at this level measuring 1.7 cm. Mild discitis of the L4-L5 disc 
without osteomyelitis of the L4 vertebral body.Multilevel 
degenerative disc disease. Broad-based disc herniation at L4-5 
creating severe spinal
stenosis and severe neural foraminal stenosis, right greater 
than left. 
 Moderate to large broad-based disc herniation at L5-S1 creating 
moderate spinal stenosis and severe bilateral neural foraminal
stenosis. Facet joint arthropathy at L2-3, L4-5 and L5-S1. 

=============
MICROBIOLOGY:
=============

___ 5:45 pm TISSUE      L5 BIOPSY #3. 

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   TISSUE (Preliminary):    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO GROWTH. 

   ACID FAST SMEAR (Preliminary): 

   ACID FAST CULTURE (Preliminary): 

   FUNGAL CULTURE (Preliminary): 
__________________________________________________________
___ 5:45 pm TISSUE      L5 BIOPSY #2. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   TISSUE (Preliminary):    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO GROWTH. 

   ACID FAST SMEAR (Preliminary): 

   ACID FAST CULTURE (Preliminary): 

   FUNGAL CULTURE (Preliminary): 
__________________________________________________________
___ 5:19 pm TISSUE      Source: Bone biopsy. 

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   TISSUE (Preliminary):    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO GROWTH. 

   FUNGAL CULTURE (Preliminary): 

   ACID FAST SMEAR (Preliminary): 

   ACID FAST CULTURE (Preliminary): 
__________________________________________________________
___ 7:10 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 5:10 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 4:17 pm ABSCESS      Source: Spinal L4L5. 

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO GROWTH. 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR. 

   ACID FAST CULTURE (Preliminary): 
__________________________________________________________
___ 4:17 pm TISSUE      Source: Spinal Bone Biopsy. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   TISSUE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO GROWTH. 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR. 

   ACID FAST CULTURE (Preliminary): 
__________________________________________________________
___ 9:10 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

Exit
  
 
Brief Hospital Course:
Ms. ___ is a ___ year old ___-speaking female with h/o 
HTN, HLD, chronic low back pain, and recent admission to ___ for 
pyelonephritis (___), who presents with ___ months of lower 
back pain, with MRI findings concerning for L5-S1 discitis with 
osteomyelitis as well as anterior left paraspinous soft tissue 
abscess.

=============
ACUTE ISSUES:
=============
# Osteoarthritis
# Rule Out Osteomyelitis
# Low back pain
Patient presents with 2 month history of worsening lower back 
pain, with MRI findings concerning for L5-S1 discitis and 
paraspinal abscess. Patient hemodynamically stable and afebrile 
on presentation without leukocytosis, so antibiotics were 
deferred with plan for biopsy. Spine biopsy was preformed by 
interventional radiology on ___ without complication. 
Unfortunately, gram stain and cultures from these samples were 
negative. Patient underwent repeat bone biopsy on ___, again 
with negative culture date. Pathology pending. Infectious 
disease was consulted who, given the patient's clinical 
stability, recommended against treatment with antibiotics at 
this time. It was felt that her MRI findings may not be 
infectious in the setting of two negative bone biopsies. Plan 
for repeat lab work and MRI in 2 weeks to re-evaluate the spine, 
with close follow up with infectious disease and primary care 
physician. These findings and recommendations were communicated 
to PCP.
  
===============
CHRONIC ISSUES:
===============
#Hypertension
Continued home Lisinopril.

#HLD
Continued home atorvastatin and aspirin.

#Osteopenia: 
Home alendronate was held during her hospitalization. Will 
likely benefit from restarting this medication after speaking 
with PCP.

==================== 
TRANSITIONAL ISSUES: 
====================
[ ] Continue lidocaine patch once daily for pain, as well as 
home Tylenol and Diclofenac
[ ] Please repeat lab work and MRI in 2 weeks to evaluate for 
infection vs. osteoarthritis
[ ] Please follow up with infectious disease within ___ weeks 
following repeat MRI. They are currently working on making an 
appointment. Patient instructed to call ___ if she does 
not hear from them within the next ___ days. 
[ ] Please also follow up with primary care provider following 
repeat MRI
[ ] Please consider SPEP, UPEP, free light chain as additional 
work up for bone pain. In the absence of signs of infection on 
MRI, elevated ESR and CRP could raise suspicion for underlying 
paraproteinemia 

Medications added: Lidocaine patch 5% PRN pain
Medications held: None
Medications changed: None

Advanced care planning:
Contact: Daughter: ___

 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. Acetaminophen 500 mg PO Q6H:PRN Pain - Mild 
4. Alendronate Sodium 70 mg PO 1X/WEEK (___) 
5. Diclofenac Sodium ___ 50 mg PO BID 
6. Lisinopril 20 mg PO DAILY 

 
Discharge Medications:
1.  Lidocaine 5% Patch 1 PTCH TD QAM 
RX *lidocaine 5 % Please apply to lower back as needed once a 
day Disp #*15 Patch Refills:*0 
2.  Acetaminophen 500 mg PO Q6H:PRN Pain - Mild  
3.  Alendronate Sodium 70 mg PO 1X/WEEK (___)  
4.  Aspirin 81 mg PO DAILY  
5.  Atorvastatin 40 mg PO QPM  
6.  Diclofenac Sodium ___ 50 mg PO BID  
7.  Lisinopril 20 mg PO DAILY  
___
Please obtain MRI (L spine) prior to your follow up appointment 
with infectious disease 
9.Outpatient Lab Work
Please repeat lab work prior to follow up appointment with 
infectious disease including CRP, CBC, and chem panel (Na+, K+, 
Cl-/HCO3-, BUN/Cr, glucose)

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
1. Osteoarthritis

Secondary diagnosis:
1. Hypertension
2. Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  

It was a pleasure taking care of you at the ___ 
___!  

Why was I admitted to the hospital?  
-You were admitted because you had back pain.  

What happened while I was in the hospital?  
-You were found to have worrisome changes in your spine that are 
probably causing your back pain. It is still unclear whether 
these changes are because of infection or because of arthritis. 
While you were here, we had our infectious disease doctors ___ 
___. We also did two spine biopsies to look for infection. Both 
biopsies were negative, which makes infection less likely. 
Instead, we think that your back pain is more likely from 
arthritis. You should still get a repeat MRI in 2 weeks to 
completely rule out infection. 
- In the meantime, please continue to use Tylenol and lidocaine 
patches for back pain
- Please also follow up with the infectious disease doctors and 
your primary care doctor in ___ weeks after your MRI 

What should I do after leaving the hospital?  
-  Please take your medications as listed in discharge summary 
and follow up at the listed appointments. 

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Sincerely,

Your ___ Healthcare Team  

 
Followup Instructions:
___